Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
progressive worsening numbness in arms and legs

 
Major Surgical or Invasive Procedure:
catheter placement, 5-days of plasmaphresis
 
History of Present Illness:
Ms. ___ is an obese right-handed ___ ___ year-old 
woman w/ PMH of severe idiopathic axonal sensorimotor 
polyneuropathy previously responsive to plasmapheresis, HTN, 
DMII, HLD, and depression p/w with worsening numbness and 
weakness secondary to her chronic axonal polyneuropathy.  She 
has baseline chronic numbness distally that has gradually moved 
proximally from ankles to midshin bilaterally.  Numbness now 
also extends from her fingers to her forearm, but spares her 
face.  She denies saddle anesthesia but has baseline 
incontinence described as infrequent episodes where she has 
bowel movements at night. In the daytime she feels an urge and 
can make it to the bathroom. Specifically, she denies numbness 
when wiping. She reports some associated weakness in her hands 
over the last few months that has caused her to drop objects 
more frequently. She has difficulty holding onto smaller objects 
such as a fork or toothbrush.  She reports that she has had 
multiple episodes of increased numbness over the past ___ years 
that typically present in a similar fashion and have been 
successfully treated with plasma exchange.   She also reports 
intermittent bilateral tension headaches and brief episodes of 
chest discomfort (lasting ___ seconds) that have occurred over 
the past few months as well. 
 .
The patient first noticed the onset of neurological symptoms as
early as ___.  As a result of difficulty walking and severe 
knee
pain, she underwent bilateral knee replacements over the course
of the subsequent ___ years (___).  Despite the
operations, she required the assistance of a cane to ambulate
secondary to lower extremity weakness.  After falling while
performing transfers, the patient ultimately became wheelchair
bound by approximately ___.  By ___, the weakness extended 
from
the lower extremities into the trunk and upper extremities.  
Exacerbations in numbness and weakness have been successfully 
treated with plasma exchange in the past.  She typically notes 
improvement ___ months after treatment.  Per prior records, she 
has received 4 plasma exchange treatments most recently in ___ 
and ___. 
She was admitted for similar symptoms in ___ with numbness of 
lower extremities, upper extremities, trunk, neck, and face to 
the level of the lower lip. Dr. ___ for a new 
session of plasmapheresis and she gradually improved.  Of note, 
she has had complications with plasmaphresis in the past 
including coronary vasospasm, bradycardia, and a central line 
infection.
.
At her current baseline she can walk 150 feet with a walker.  
She eats and can transfer independently. She can wash and dress 
herself and can use the toilet with an assistive device. 
.
She was recently seen by Cardiology who determined that she most 
likely was not suffering from chronic heart failure (of note she 
has no documented evidence of heart failure or stress-test 
induced ischemia in our system). They recently discontinued her 
lasix and decreased her imdur. 

 
Past Medical History:
- Severe idiopathic axonal sensorimotor polyneuropathy
* initial sx in ___ (weakness and sensory loss in legs -->
abdomen --> arms)
* responsive to plasmapheresis (last sessions ___
* prior evaluation (per Dr. ___ dated ___:
- Sural nerve biopsy: marked loss of large and small myelinated
axons
- Vitamin B12 deficiency
- HTN
- DM (type II)
- GERD
- Depression
- Diverticulosis
.
PAST SURGICAL HISTORY:
- c-section x 2
- hysterectomy for leiomyomata
- left breast lumpectomy
- bilateral knee replacements
- portacath (since removed)
- surgery related to recent abdominal hematoma related to sc
heparin

 
Social History:
___
Family History:
FAMILY HISTORY:
- negative for neurological conditions
- positive for DM (mother, brother), malignancy (mother - liver,
cervical, colon; father - lung), CAD (mother)

 
Physical Exam:
PHYSICAL EXAMINATION:
Vitals: T: 97.2 P:  68   BP: 138/80  SaO2: 99%  RA
General: Awake, cooperative, NAD.
HEENT: Normocephalic, atraumatic, no scleral icterus noted. 
Mucus
membranes moist, no lesions noted in oropharynx
Neck: Supple. No carotid bruits appreciated. 
Cardiac: Regular rate, normal S1 and S2.
Pulmonary: Lungs clear to auscultation bilaterally anteriorly.
Abdomen: Obese. Normoactive bowel sounds.  Soft.  Non-tender,
non-distended.
Extremities: No evidence of cyanosis or edema.  
Skin: no rashes or concerning lesions noted.
.
.
NEUROLOGIC EXAMINATION:
.
Mental Status:
* Degree of Alertness: Alert.  Able to relate history without
difficulty.
* Orientation: Oriented to person, place, day, month, year,
situation
* Attention: Attentive.  Able to name the days of the week
forwards and backwards without difficulty.
* Memory:   Pt demonstrated knowledge of recent events.  
* Language: Language is fluent without evidence of paraphasic
errors.  Repetition is intact.  Comprehension appears intact; pt
able to correctly follow midline and appendicular commands. 
Prosody is normal.  Pt able to name high and low frequency
objects without difficulty.  
* Calculation: Pt able to calculate number of quarters in $1.50
* Neglect: No evidence of sensory (no extinction with double
simultaneous stimulation) neglect. No evidence of apraxia.
.
.
Cranial Nerves:
* I: Olfaction not evaluated. 
* II: PERRL 2-->1mm and brisk.  Visual fields full 
* III, IV, VI: EOMI without nystagmus or diplopia
* V: Facial sensation intact to light touch in the V1, V2, V3
distributions.
* VII: No facial droop, facial musculature symmetric.
* VIII: Hearing intact to finger-rub bilaterally. 
* IX, X: Palate elevates symmetrically. 
* XI: ___ strength in trapezii and SCM bilaterally.
* XII: Tongue protrudes in midline.  
.
.
Motor:
* Bulk: Atrophy in the small muscles of the hands and feet
bilaterally.
* Tone: Normal.  No evidence of cogwheel rigidity or paratonia. 
* Drift: No pronator drift bilaterally.
* Adventitious Movements: No tremor or asterixis noted.  
Pseudoathetosis of fingers with arm raise.
.
Motor examination:  
 Her neck flexors and extensors are ___.  
   D  B  T  WF WE FF  FE  IP  Q  HS   DF  ___  
L  ___   ___  5     ___   
R  ___   ___  5     ___   
.
Reflexes:
biceps 2+ bilaterally
Absent triceps, brachioradialis, patella, achilles. 
Plantar reflexes:   flexor bilaterally 
.
Sensation:
* Light Touch: intact bilaterally in upper + lower extremities
* Pinprick: UE diminished from mid-forearm distally in left 
upper extremities intact in the right upper extremity
___: diminished from mid-shin distally in left lower extremities, 
intact in right lower extremity foot to knee, diminished on 
plantar surface of foot
* Vibration: upper extremities intact, ___- right: vibration 
undetected in malleolus or patella, left: detected only at 
patella
* Proprioception: absent in great toe bilaterally, present at 
ankles bilaterally 
.
Coordination
* Finger-to-nose: intact with intention tremor bilaterally

 
Pertinent Results:
___ 05:10AM BLOOD WBC-7.1 RBC-4.13* Hgb-12.9 Hct-36.3 
MCV-88 MCH-31.3 MCHC-35.6* RDW-13.5 Plt ___
___ 09:35PM BLOOD ___ PTT-23.0 ___
___ 09:35PM BLOOD Glucose-99 UreaN-11 Creat-0.9 Na-142 
K-4.1 Cl-103 HCO3-31 AnGap-12
___ 05:15AM BLOOD Calcium-9.7 Phos-4.8* Mg-1.9
___ 09:35PM BLOOD VitB12-258

Imaging:
     
___
KUB
FINDINGS: Multiple loops of air-filled small and large bowel are 
seen 
throughout the abdomen. Small bowel loops are mild-to-moderately 
distended, whereas large bowel loops are of normal caliber. Air 
is also seen distally within the rectosigmoid region. Absence of 
upright view limits assessment for air-fluid levels or free 
intraperitoneal air. Observed bowel gas pattern may be due to 
ileus, but followup obstruction series would be helpful to 
exclude the possibility of an early or partial small bowel 
obstruction 

Labs at discharge:

___ 05:10AM BLOOD WBC-8.5 RBC-3.84* Hgb-11.6* Hct-34.6* 
MCV-90 MCH-30.2 MCHC-33.5 RDW-14.2 Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD Glucose-96 UreaN-8 Creat-1.1 Na-145 K-4.5 
Cl-106 HCO3-33* AnGap-11
___ 05:10AM BLOOD Calcium-9.1 Phos-4.9* Mg-2.0
 
Brief Hospital Course:
Ms. ___ is an obese right-handed ___ ___ year-old 
woman w/ PMH of severe idiopathic axonal sensorimotor 
polyneuropathy previously responsive to plasmapheresis, HTN, 
DMII, HLD, and depression who presented with worsening numbness 
and weakness secondary to her chronic axonal polyneuropathy.  
Ms. ___ was admitted to the General Neurology Service on 
___ and baseline labs, vitamin B12 level, and EKG were 
obtained which were all normal prior to starting a course of 
plasmaphresis (planned 5 sessions, scheduled every other day, as 
was effective for her in the past).

 After her first session she developed transient nausea and had 
one episode of emesis for which she recieved IV zofran prn, but 
she subsequently tolerated the 4 remaining sessions very well.  
By her ___ session she reported subjective improvement in lower 
extremity weakness and numbness of the dorsal aspect of her feet 
bilaterally.  

Neurologic exam at discharge showed significantly improved ___ 
strength throughout except delts and ___ (4+/5).  Also slightly 
improved sensory exam, with proprioception at ankles and 
vibration intact at the malleolus bilaterally.  She was 
discharged on ___ and will follow up with Dr. ___ 
Dr. ___ in clinic on ___ as an outpatient.
 
Medications on Admission:
MEDICATIONS:
Metoclopramide 10 mg PO TID 
Prochlorperazine 10 mg PO Q6H:PRN nausea 
Aspirin 81 mg PO DAILY 
Omeprazole 20 mg PO BID
Simvastatin 20 mg PO DAILY 
Lidocaine 5% Patch 1 PTCH TD DAILY on at 8 am, off at 8 pm 
Amlodipine 5 mg PO DAILY bisacodyl
Sertraline 100 mg PO DAILY 
BuPROPion 100 mg PO BID  
Multivitamins 1 TAB PO DAILY  
Lactulose 15 mL PO TID  
Polyethylene Glycol 17 g PO BID  
Bisacodyl 5 mg PO DAILY:PRN constipation 
Glycerin Supps 1 SUPP PR PRN constipation  
Nitroglycerin SL 0.3 mg SL PRN chest pain; may use q 5 min x 3  
Docusate Sodium 100 mg PO BID 
Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
Ultram 50 mg PO QD
Metformin HCl 500mg 1 tab PO BID
Neurontin 100mg PO BID
Milk of magnesia prn
Ativan 0.5 mg 1 tab q 6 hrs prn
Robitussin prn
Duonebs q4 hrs prn
Fleet enema prn

 
Discharge Medications:
MEDICATIONS:
Metoclopramide 10 mg PO TID 
Prochlorperazine 10 mg PO Q6H:PRN nausea 
Aspirin 81 mg PO DAILY 
Omeprazole 20 mg PO BID
Simvastatin 20 mg PO DAILY 
Lidocaine 5% Patch 1 PTCH TD DAILY on at 8 am, off at 8 pm 
Amlodipine 5 mg PO DAILY bisacodyl
Sertraline 100 mg PO DAILY 
BuPROPion 100 mg PO BID  
Multivitamins 1 TAB PO DAILY  
Lactulose 15 mL PO TID  
Polyethylene Glycol 17 g PO BID  
Bisacodyl 5 mg PO DAILY:PRN constipation 
Glycerin Supps 1 SUPP PR PRN constipation  
Nitroglycerin SL 0.3 mg SL PRN chest pain; may use q 5 min x 3  
Docusate Sodium 100 mg PO BID 
Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
Ultram 50 mg PO QD
Metformin HCl 500mg 1 tab PO BID
Neurontin 100mg PO BID
Milk of magnesia prn
Ativan 0.5 mg 1 tab q 6 hrs prn
Robitussin prn
Duonebs q4 hrs prn
Fleet enema prn

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Idiopathic sensorimotor polyneuropathy.

 
Discharge Condition:
Condition: in no distress
Mental status: alert, fully oriented and coherent
Ambulatory status: improved strength, ambulates to chair with 
help of ___.
Pertinent findings on physical examination upon discharge:
Motor:
* Bulk: Atrophy in the small muscles of the hands and feet
bilaterally.
* Tone: Normal.  No evidence of cogwheel rigidity or paratonia. 
* Drift: No pronator drift bilaterally.
* Adventitious Movements: No tremor or asterixis noted.  
Pseudoathetosis of fingers with arm raise.
.
Motor examination:  
 Her neck flexors and extensors are ___.  
   D  B  T  WF WE FF  FE  IP  Q  HS   DF  ___  
L  ___   ___  5     ___   
R  ___   ___  5     ___   
.
Reflexes:
biceps 2+ bilaterally
Absent triceps, brachioradialis, patella, achilles. 
Plantar reflexes:   flexor bilaterally 
.
Sensation:
* Light Touch: intact bilaterally in upper + lower extremities
* Pinprick: UE diminished from mid-forearm distally in left 
upper extremities intact in the right upper extremity
___: diminished from mid-shin distally in left lower extremities, 
intact in right lower extremity foot to knee, diminished on 
plantar surface of foot
* Vibration: upper extremities intact, ___- right: vibration 
undetected in malleolus or patella, left: detected only at 
patella
* Proprioception: absent in great toe bilaterally, present at 
ankles bilaterally 
.
Coordination
* Finger-to-nose: intact with intention tremor bilaterally

 
Discharge Instructions:
Dear ___,

___ has been a pleasure taking care of you.
You were admitted to us for plasmapheresis, in the setting of 
leg weakness, numbness of your arms, a condition we are calling 
polyneuropathy.
You were admitted on ___, a central was placed on ___, 
and we started the plasmapheresis on ___. You received a 
total of 5 pheresis courses:
___ and ___.
You had vomiting after the first pheresis. You did not have any 
further nausea or vomiting. You reported some fatigue, which is 
expected after the plasmapheresis.
You also reported improvement in your strength.
During this admission, you had a problem with constipation, and 
you responded well to bisacodyl suppositories. This problem can 
be related to staying in bed and not moving around a lot. We 
encourage you to move as much as possible, as well as drinking 
fluids, eating a fiber rich diet, and if need be, please 
administer bisacodyl suppository as needed.
We will not be making any changes to your home medications.
We would like you to follow up with Dr. ___ we have 
made the appointment for you.
Please contact our neurology office with any questions or 
concerns.
You will be discharged back to rehabilitation at ___.
 
Followup Instructions:
___